### PR TITLE
[Merged by Bors] - feat(Archive): Buffon's Needle

### PR DESCRIPTION
**Pull request by enricozb**
[Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Buffon's.20Needle/near/419359856)

---

- [x] depends on: #11562

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 1]
```diff
@@ -0,0 +1,450 @@
...
+    (hs : MeasurableSet s) (hf : ∀ᵐ x : α, x ∈ s → f x ≥ 0) :
+    ∫ (x : α) in s, ENNReal.toReal (ENNReal.ofReal (f x)) =
+    ∫ (x : α) in s, f x := by
+
+  have : ∀ᵐ x : α, x ∈ s → f x = ENNReal.toReal (ENNReal.ofReal (f x)) := by
+    simp_rw [eq_comm (a := f _), ENNReal.toReal_ofReal_eq_iff, hf]
+
+  rw [MeasureTheory.set_integral_congr_ae hs this]
+
+notation "π" => Real.pi
```
Comment (jcommelin) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:81]: This notation already exists in mathlib, and becomes available once you `open Real`.

**Review by jcommelin — COMMENTED** [review]
A super minor comment. A longer review should maybe be done by someone with a bit more familiarity with integration/measure theory in mathlib.

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean (hunk 1 above)
Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:81]: Oh good point. I'll wait for some more comments before pushing to the branch again just so I don't have to wait for checks to rerun yet again

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 2]
```diff
@@ -0,0 +1,450 @@
...
+    apply Continuous.mul _ continuous_const
+    have : (fun (x : ℝ × ℝ) => Real.sin x.2) = Real.sin ∘ Prod.snd := by rfl
+    rw [this]
+    apply Continuous.comp Real.continuous_sin continuous_snd
+
+lemma N'_strongly_measurable : MeasureTheory.StronglyMeasurable (N' l) := by
+  apply stronglyMeasurable_iff_measurable_separable.mpr
+  apply And.intro
+  · exact N'_measurable l
+  · apply Exists.intro {0, 1}
```
Comment (tb65536) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:186]: This is the sort of thing that `refine'` is really good for. Does something like this work? (untested)
`refine' stronglyMeasurable_iff_measurable_separable.mpr ⟨N'_measurable l, {0, 1}, _⟩`

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 3]
```diff
@@ -0,0 +1,384 @@
...
+
+  The line is at `x = 0`, and the needle crosses the line if it's projection
+  onto the x-axis contains `0`. This random variable is `1` if the needle
+  crosses the line, and `0` otherwise.
+
+  Note: `N : Ω → ℝ` is the random variable; the definition of `N' : ℝ × ℝ` is
+  provided for convenience.
+-/
+noncomputable def N' (p : ℝ × ℝ) : ℝ := Set.indicator (needle_x_proj l p.1 p.2) 1 0
+noncomputable def N : Ω → ℝ := N' l ∘ B
```
Comment (JasonKYi) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:124]: Can you give this a more descriptive name? Maybe something like needleCrosses

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 4]
```diff
@@ -0,0 +1,384 @@
...
+
+  /- `B` is uniformly distributed on `[-d/2, d/2] × [0, π]`. -/
+  (hB : pdf.IsUniform B ((Set.Icc (-d / 2) (d / 2)) ×ˢ (Set.Icc 0 π)) ℙ)
+
+/--
+  Projection of a needle onto the x-axis. The needle's center is at
+  x-coordinate `x`, of length `l` and angle `θ`. Note, `θ` is measured
+  relative to the y-axis, that is, a vertical needle has `θ = 0`.
+-/
+def needle_x_proj (x θ : ℝ) : Set ℝ := Set.Icc (x - θ.sin * l / 2) (x + θ.sin * l / 2)
```
Comment (JasonKYi) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:111]: Can you use lowerCamelCase for terms of types (See [here](scoped[MeasureTheory]))

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 5]
```diff
@@ -0,0 +1,384 @@
...
+known as Buffon's Needle, which gives the probability of a needle of length `l > 0` crossing any
+one of infinite vertical lines spaced out `d > 0` apart.
+
+The two cases are proven in `buffon_short` and `buffon_long`.
+
+## Overview of the Proof
+
+We define a random variable `B : Ω → ℝ × ℝ` with a uniform distribution on `[-d/2, d/2] × [0, π]`.
+This represents the needle's x-position and angle with respect to a vertical line. By symmetry, we
+need to consider only a single verticalm line positioned at `x = 0`. A needle therefore crosses the
```
Comment (Ruben-VandeVelde) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:26]:
```suggestion
need to consider only a single vertical line positioned at `x = 0`. A needle therefore crosses the
```

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 6]
```diff
@@ -0,0 +1,384 @@
...
+* https://www.math.leidenuniv.nl/~hfinkeln/seminarium/stelling_van_Buffon.pdf
+* https://www.isa-afp.org/entries/Buffons_Needle.html
+
+-/
+
+open MeasureTheory (MeasureSpace IsProbabilityMeasure pdf.IsUniform Measure)
+open ProbabilityTheory Real
+
+lemma set_integral_toReal_ofReal_nonneg_ae {α : Type _} [MeasureSpace α] {s : Set α} {f : α → ℝ}
+    (hs : MeasurableSet s) (hf : ∀ᵐ x : α, x ∈ s → f x ≥ 0) :
```
Comment (Ruben-VandeVelde) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:72]:
```suggestion
    (hs : MeasurableSet s) (hf : ∀ᵐ x : α, x ∈ s → 0 ≤ f x) :
```

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 7]
```diff
@@ -0,0 +1,384 @@
...
+* https://en.wikipedia.org/wiki/Buffon%27s_needle_problem
+* https://www.math.leidenuniv.nl/~hfinkeln/seminarium/stelling_van_Buffon.pdf
+* https://www.isa-afp.org/entries/Buffons_Needle.html
+
+-/
+
+open MeasureTheory (MeasureSpace IsProbabilityMeasure pdf.IsUniform Measure)
+open ProbabilityTheory Real
+
+lemma set_integral_toReal_ofReal_nonneg_ae {α : Type _} [MeasureSpace α] {s : Set α} {f : α → ℝ}
```
Comment (Ruben-VandeVelde) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:71]: You could perhaps move this into mathlib itself, though maybe it's too specialized... I'm not sure. In any case,
```suggestion
lemma set_integral_toReal_ofReal_nonneg_ae {α : Type*} [MeasureSpace α] {s : Set α} {f : α → ℝ}
```

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 8]
```diff
@@ -0,0 +1,384 @@
...
+  Projection of a needle onto the x-axis. The needle's center is at
+  x-coordinate `x`, of length `l` and angle `θ`. Note, `θ` is measured
+  relative to the y-axis, that is, a vertical needle has `θ = 0`.
+-/
+def needle_x_proj (x θ : ℝ) : Set ℝ := Set.Icc (x - θ.sin * l / 2) (x + θ.sin * l / 2)
+
+/--
+  A random variable representing whether the needle crosses a line.
+
+  The line is at `x = 0`, and the needle crosses the line if it's projection
```
Comment (Ruben-VandeVelde) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:116]:
```suggestion
  The line is at `x = 0`, and the needle crosses the line if its projection
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks for this! A few stylistic comments below. Maybe we could also add some more documentation about how the proof works, next to each of the main lemmas?

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean (hunk 4 above)
Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:111]: This link doesn't work form me

Comment (JasonKYi) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:111]: My bad, this is the link: https://github.com/leanprover-community/mathlib4/wiki/Lean-4-survival-guide-for-Lean-3-users#naming-conventions

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean (hunk 7 above)
Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:71]: While there wasn't much of a discussion, I [mentioned it on Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Buffon's.20Needle.20general.20lemmas/near/419465574), and sort of agreed that it was a bit too specific.

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 9]
```diff
@@ -0,0 +1,384 @@
...
+  refine' Measurable.indicator measurable_const (IsClosed.measurableSet (IsClosed.inter ?l ?r))
+
+  all_goals simp only [tsub_le_iff_right, zero_add, ← neg_le_iff_add_nonneg']
+  case' l => refine' isClosed_le continuous_fst _
+  case' r => refine' isClosed_le (Continuous.neg continuous_fst) _
+
+  all_goals
+    refine' Continuous.mul (Continuous.mul _ continuous_const) continuous_const
+    simp_rw [← Function.comp_apply (f := Real.sin) (g := Prod.snd),
+      Continuous.comp Real.continuous_sin continuous_snd]
```
[the remark this answers is not in the document]
Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:166]: Neither `continuity` or `fun_prop` were able to resolve these.

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean (hunk 4 above)
Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean]: So I've read through this, do you have any recommendations on handling random variables (since they are typically just upper cased)? Should I just stick to the style guideline?

Comment (JasonKYi) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean]: In this case I would stick with the guidelines. OTOH if the random variable is a local variable within a theorem or a definition, then you can name it as you'd like (typically X)

**Comment by enricozb** [comment]
Thanks for the thorough reviews!

Since there have been some changes to `pdf.IsUniform`, I was able to remove some unnecessary lemmas. And I think the naming and styling is in line with the guide.

**Comment by JasonKYi** [comment]
There was a new PR which changed uniform distribution a bit. Can you merge master and see if it still compiles?

**Comment by enricozb** [comment]
> There was a new PR which changed uniform distribution a bit. Can you merge master and see if it still compiles?

Indeed some of my rewrites that made use of the old definition (`Measure.map B ℙ = (μ s)⁻¹ • μ.restrict s`) have broken.

**Comment by enricozb** [comment]
Ok, looks like it wasn't hard to fix. Updated

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 10]
```diff
@@ -0,0 +1,420 @@
...
+    simp_rw [min_eq_right ((le_div_iff hl).mp ((Real.le_arcsin_iff_sin_le' hθ_mem).mp hθ₂))]
+
+  rw [intervalIntegral.integral_congr this, intervalIntegral.integral_mul_const, integral_sin,
+    Real.cos_zero, Real.cos_arcsin]
+
+/--
+  The second of two adjacent integrals in the long case. In the range `(d / l).arcsin..(π / 2)`, we
+  have that `d ≤ θ.sin * l`, and thus the integral is `∫ θ in (d / l).arcsin..(π / 2), d`.
+-/
+lemma integral_arcsin_to_pi_div_two_min (h : l ≥ d) :
```
Comment (JasonKYi) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:353]: We use the spelling `a ≤ b` in general (since all lemmas are writing in this form and it is harder to use whenever we need syntactic equality). Can you change to this convention here and below?

Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:353]: Should I do the same for strict equality eg `0 < d`?

Comment (JasonKYi) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:353]: Yes

Comment (JasonKYi) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:353]: Although, if you have an assumption of the form 0 < a, then it should be instead phrased as a \neq 0

Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:353]: Not sure I understand, `a` is a real number here.

Comment (JasonKYi) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean]: I mean to say that the spelling of `d \neq 0` is preferred over `0 < d` if it is an assumption while `0 < d` is preferred over `d \neq 0` if it is the conclusion.

Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean]: I think I'm confused. Those aren't equivalent statements in the reals. So I can't substitute `0 < d` for `d \neq 0` in an assumption, because I also need it to be non-negative.

Comment (JasonKYi) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean]: Oh, I'm sorry. I was under the impression that we are talking about `nnreal` rather than `real`. In this case what you have is correct.

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 11]
```diff
@@ -0,0 +1,420 @@
...
+noncomputable def N : Ω → ℝ := needleCrossesIndicator l ∘ B
+
+/--
+  The possible x-positions and angle relative to the y-axis of a needle.
+-/
+abbrev needleSpace := Set.Icc (-d / 2) (d / 2) ×ˢ Set.Icc 0 π
+
+lemma needleSpace_volume : ℙ (needleSpace d) = ENNReal.ofReal (d * π) := by
+  simp_rw [MeasureTheory.Measure.volume_eq_prod, MeasureTheory.Measure.prod_prod, Real.volume_Icc,
+    ENNReal.ofReal_mul hd.le]
```
[the remark this answers is not in the document]
Comment (JasonKYi) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:139]: Ok, I see that you need positivity for line 225.

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 12]
```diff
@@ -0,0 +1,420 @@
...
+      ← mul_comm_div, mul_comm 2, mul_div_mul_left _ _ (ne_of_gt hd)]
+  have this₃ : 2 * Real.sqrt (l^2 - d^2) / (d * π) = 2 / (d * π) * (l^2 - d^2).sqrt := by ring_nf
+  have this₄ : 2 / π * d / d = 2 / (d * π) * d := by ring_nf
+
+  conv =>
+    lhs
+    rw [this₁, inv_mul_eq_div, mul_add, mul_sub, add_div, sub_div,
+      mul_comm (π / 2 - (d / l).arcsin), ← mul_assoc, this₂, this₃, add_sub, add_sub_right_comm,
+      sub_eq_add_neg, sub_eq_add_neg, ← neg_mul, ← mul_div_cancel (2 / π) (ne_of_gt hd), this₄,
+      mul_assoc, ← neg_mul, add_assoc (2 * l / (d * π)) _ _, ← mul_add, neg_mul, ← sub_eq_add_neg]
```
Comment (Ruben-VandeVelde) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:420]: Fortunately computers are better at this:
```suggestion
  field_simp
  ring
```

**Review by Ruben-VandeVelde — APPROVED** [review]
I don't know enough about probability to be confident in my review, but it mostly looks good to me. You might want to merge master into this branch to make sure nothing broke since you made the PR

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean (hunk 12 above)
Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:420]: Wow. I wasn't aware of `field_simp`. One question: Usually, when I use `ring`, Lean will ask me instead to replace it with `ring_nf`. Here, it doesn't say that. Do you know why?

Comment (YaelDillies) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean]: `ring` has several subroutines. If the first one doesn't work, it tells you to run `ring_nf`, which is the second subroutine. `_nf` stands for "Horner normed form".

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 13]
```diff
@@ -0,0 +1,394 @@
...
+
+lemma set_integral_toReal_ofReal_nonneg_ae {α : Type*} [MeasureSpace α] {s : Set α} {f : α → ℝ}
+    (hs : MeasurableSet s) (hf : ∀ᵐ x : α, x ∈ s → 0 ≤ f x) :
+    ∫ (x : α) in s, ENNReal.toReal (ENNReal.ofReal (f x)) =
+    ∫ (x : α) in s, f x := by
+
+  have : ∀ᵐ x : α, x ∈ s → f x = ENNReal.toReal (ENNReal.ofReal (f x)) := by
+    simp_rw [eq_comm (a := f _), ENNReal.toReal_ofReal_eq_iff, hf]
+
+  rw [MeasureTheory.set_integral_congr_ae hs this]
```
Comment (YaelDillies) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:83]: Can you inline this lemma?

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 14]
```diff
@@ -0,0 +1,394 @@
...
+
+  /- `B` is uniformly distributed on `[-d/2, d/2] × [0, π]`. -/
+  (hB : pdf.IsUniform B ((Set.Icc (-d / 2) (d / 2)) ×ˢ (Set.Icc 0 π)) ℙ)
+
+/--
+  Projection of a needle onto the x-axis. The needle's center is at x-coordinate `x`, of length
+  `l` and angle `θ`. Note, `θ` is measured relative to the y-axis, that is, a vertical needle has
+  `θ = 0`.
+-/
+def needleProjX (x θ : ℝ) : Set ℝ := Set.Icc (x - θ.sin * l / 2) (x + θ.sin * l / 2)
```
Comment (YaelDillies) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:111]: Can you put everything in a namespace like `BuffonNeedle`?

File: docs/100.yaml [hunk 15]
```diff
@@ -411,6 +411,9 @@
   author : Bolton Bailey, Patrick Stevens
 99:
   title  : Buffon Needle Problem
+  links  :
+    mathlib archive: https://github.com/leanprover-community/mathlib4/blob/master/Archive/Wiedijk100Theorems/BuffonsNeedle.lean
```
Comment (YaelDillies) [inline docs/100.yaml:415]:
```suggestion
  decl   : buffon_short buffon_long
```

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 16]
```diff
@@ -0,0 +1,420 @@
...
+    ← MeasureTheory.integral_map hBₘ.aemeasurable
+      (needleCrossesIndicator_stronglyMeasurable l).aestronglyMeasurable,
+    hB, ProbabilityTheory.cond, MeasureTheory.integral_smul_measure, needleSpace_volume d hd,
+    ← ENNReal.ofReal_inv_of_pos (mul_pos hd Real.pi_pos),
+    ENNReal.toReal_ofReal (inv_nonneg.mpr (mul_nonneg hd.le Real.pi_pos.le)), smul_eq_mul,
+  ]
+
+  refine' mul_eq_mul_left_iff.mpr (Or.inl _)
+
+  have Real_measure_prod : (ℙ : Measure (ℝ × ℝ)) = Measure.prod ℙ ℙ := rfl
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:231]: `MeasureTheory.Measure.volume_eq_prod`

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean (hunk 13 above)
Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:83]: I definitely don't like how it's at the top of the file, but it's used both in `buffon_short` and `buffon_long`.

File: docs/100.yaml (hunk 15 above)
Comment (enricozb) [reply docs/100.yaml:415]: Should I use `BuffonNeedle.buffon_short` and `BuffonNeedle.buffon_long`?

Comment (YaelDillies) [reply docs/100.yaml:415]: Yes, declaration names in the yaml files need to be fully qualified

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean (hunk 13 above)
Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:83]: Ok I've inlined it

File: docs/100.yaml (hunk 15 above)
Comment (enricozb) [reply docs/100.yaml]: Hmm, looks like there are [build errors](https://github.com/leanprover-community/mathlib4/actions/runs/8362867760/job/22894523493?pr=10189). I wonder if `100.yaml` doesn't have visibility into the files imported by `Archive.lean`?

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 17]
```diff
@@ -0,0 +1,390 @@
...
+      exact ⟨le_trans (Real.arcsin_mem_Icc (d / l)).left hθ₁, lt_of_le_of_ne hθ₂ hθ_ne_pi_div_two⟩
+    simp_rw [min_eq_left ((div_le_iff hl).mp ((Real.arcsin_le_iff_le_sin' hθ_mem).mp hθ₁))]
+
+  rw [intervalIntegral.integral_congr this, intervalIntegral.integral_const, smul_eq_mul]
+
+/--
+  Buffon's Needle, the long case (`d ≤ l`).
+-/
+theorem buffon_long (h : d ≤ l) :
+    ℙ[N l B] = (2 * l) / (d * π) - 2 / (d * π) * ((l^2 - d^2).sqrt + d * (d / l).arcsin) + 1 := by
```
Comment (eric-wieser) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:362]: Could you adjust the uses of `.sqrt` to use the new notation?

Comment (enricozb) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean]: Done, also merged in master.

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 18]
```diff
@@ -0,0 +1,390 @@
...
+We define a random variable `N : Ω → ℝ` that is `1` if the needle crosses a vertical line, and `0`
+otherwise. This is defined as `fun ω => Set.indicator (needleProjX l (B ω).1 (B ω).2) 1 0`.
+f
+As in many references, the problem is split into two cases, `l ≤ d` (`buffon_short`), and `d ≤ l`
+(`buffon_long`). For both cases, we show that
+```
+ℙ[N] = (d * π) ⁻¹ *
+    ∫ θ in 0..π,
+      ∫ x in Set.Icc (-d / 2) (d / 2) ∩ Set.Icc (-θ.sin * l / 2) (θ.sin * l / 2), 1
+```
```
Comment (eric-wieser) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:39]: These will look nicer in the web docs as
````suggestion
```lean
ℙ[N] = (d * π) ⁻¹ *
    ∫ θ in 0..π,
      ∫ x in Set.Icc (-d / 2) (d / 2) ∩ Set.Icc (-θ.sin * l / 2) (θ.sin * l / 2), 1
```
````

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 19]
```diff
@@ -0,0 +1,390 @@
...
+
+  The line is at `x = 0`, and therefore a needle crosses the line if its projection onto the x-axis
+  contains `0`. This random variable is `1` if the needle crosses the line, and `0` otherwise.
+-/
+noncomputable def N : Ω → ℝ := needleCrossesIndicator l ∘ B
+
+/--
+  The possible x-positions and angle relative to the y-axis of a needle.
+-/
+abbrev needleSpace := Set.Icc (-d / 2) (d / 2) ×ˢ Set.Icc 0 π
```
Comment (eric-wieser) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:127]:
```suggestion
abbrev needleSpace : Set (ℝ × ℝ) := Set.Icc (-d / 2) (d / 2) ×ˢ Set.Icc 0 π
```

**Review by eric-wieser — APPROVED** [review]
LGTM, thanks! Just some very minor style nits; feel free to merge after addressing the ones you agree with.

**Comment by eric-wieser** [comment]
bors d+
